US06017919
Pentyl 3-amino-4-methoxybenzoate (0.744 g, 4.45 mmol), methylene chloride (15 ml) and dimethylsulfide (0.33 ml, 4.50 mmol) were mixed, and after cooling to -30° C., N-chlorosuccinimide (601 mg, 4.5 mmol) was added to this solution. After sti ring for 1 hour, triethylamine (0.627 ml, 4.5 mmol) was added, and the mixture was refluxed under heating for 0.5 hour. Saturated brine (0.5 ml) was added to stop the reaction, the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hemne/ethyl acetate=4/1) to give pentyl 3-amino-4-methoxy-2-methylthiomethylbenzoate (0.83 g, 82%) as a brown oil.

reactant | Pentyl 3-amino-4-methoxybenzoate | 4.45 mmol, 0.744 g | NC=1C=C(C(=O)OCCCCC)C=CC1OC | C13H19NO3
reactant | dimethylsulfide | 4.50 mmol, 0.33 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 4.5 mmol, 601 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | triethylamine | 4.5 mmol, 0.627 ml | C(C)N(CC)CC | C6H15N
solvent | brine | 0.5 ml | [Cl-].[Na+].O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | pentyl 3-amino-4-methoxy-2-methylthiomethylbenzoate | 0.83 g, 82% | NC=1C(=C(C(=O)OCCCCC)C=CC1OC)CSC | C15H23NO3S
